US07589232B2
Step a) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-1,3-benzodioxole-5-carboxamide
The titled compound was prepared following the procedure K using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and 1,3-benzodioxole-5-carbonyl chloride as a pale yellow oil (94%). M+ (ESI): 588.3. HPLC, Rt: 5.69 min (Purity: 99.4%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | 1,3-benzodioxole-5-carbonyl chloride | O1COC2=C1C=CC(=C2)C(=O)Cl | C8H5ClO3
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-1,3-benzodioxole-5-carboxamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=CC3=C(OCO3)C=C2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C37H33NO6
